.SUBCKT XOR2x1_ASAP7_75t_R A B VDD VSS Y
MM11 VSS A net047 VSS nmos_rvt w=162.00n l=20n nfin=6
MM10 net047 B Y VSS nmos_rvt w=162.00n l=20n nfin=6
MM9 VSS net036 Y VSS nmos_rvt w=162.00n l=20n nfin=6
MM0 VSS A net036 VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 VSS B net036 VSS nmos_rvt w=81.0n l=20n nfin=3
MM4 VDD A net019 VDD pmos_rvt w=162.00n l=20n nfin=6
MM5 VDD B net019 VDD pmos_rvt w=162.00n l=20n nfin=6
MM6 net019 net036 Y VDD pmos_rvt w=162.00n l=20n nfin=6
MM2 net048 B net036 VDD pmos_rvt w=81.0n l=20n nfin=3
MM3 VDD A net048 VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS
.SUBCKT NAND2x1_ASAP7_75t_R A B VDD VSS Y
MM3 net16 A VSS VSS nmos_rvt w=162.00n l=20n nfin=6
MM2 Y B net16 VSS nmos_rvt w=162.00n l=20n nfin=6
MM1 Y B VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM0 Y A VDD VDD pmos_rvt w=81.0n l=20n nfin=3
.ENDS
.SUBCKT ASYNC_SYNC_DFF CLK D1 D2 QN RESETn1 RESETn2 SETn1 SETn2 VDD VSS
.SUBCKT NOR2x1_ASAP7_75t_R A B VDD VSS Y
MM2 VSS A Y VSS nmos_rvt w=81.0n l=20n nfin=3
MM1 VSS B Y VSS nmos_rvt w=81.0n l=20n nfin=3
MM4 net16 B Y VDD pmos_rvt w=162.00n l=20n nfin=6
MM3 VDD A net16 VDD pmos_rvt w=162.00n l=20n nfin=6
.ENDS
.SUBCKT DFFASRHQNx1_ASAP7_75t_R CLK D QN RESETn SETn VDD VSS
MM20 clkb CLK VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM23 clkn clkb VSS VSS nmos_rvt w=54.0n l=20n nfin=2
MM24 QN SH VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM12 MS clkn SH VSS nmos_rvt w=27.0n l=20n nfin=1
MM4 MH clkb pd1 VSS nmos_rvt w=81.0n l=20n nfin=3
MM7 net55 MH MS VSS nmos_rvt w=54.0n l=20n nfin=2
MM15 net54 SH SS VSS nmos_rvt w=54.0n l=20n nfin=2
MM5 pd1 D VSS VSS nmos_rvt w=81.0n l=20n nfin=3
MM46 VSS SETn net55 VSS nmos_rvt w=54.0n l=20n nfin=2
MM27 VSS RESETn net54 VSS nmos_rvt w=54.0n l=20n nfin=2
MM9 MH clkn net59 VSS nmos_rvt w=27.0n l=20n nfin=1
MM28 SH clkb net57 VSS nmos_rvt w=54.0n l=20n nfin=2
MM0 net58 MS net59 VSS nmos_rvt w=27.0n l=20n nfin=1
MM18 net56 SS net57 VSS nmos_rvt w=54.0n l=20n nfin=2
MM2 VSS RESETn net58 VSS nmos_rvt w=27.0n l=20n nfin=1
MM14 VSS SETn net56 VSS nmos_rvt w=54.0n l=20n nfin=2
MM21 clkb CLK VDD VDD pmos_rvt w=54.0n l=20n nfin=2
MM22 clkn clkb VDD VDD pmos_rvt w=54.0n l=20n nfin=2
MM25 QN SH VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM13 MS clkb SH VDD pmos_rvt w=27.0n l=20n nfin=1
MM3 pu1 D VDD VDD pmos_rvt w=81.0n l=20n nfin=3
MM47 VDD SETn MS VDD pmos_rvt w=54.0n l=20n nfin=2
MM6 VDD MH MS VDD pmos_rvt w=27.0n l=20n nfin=1
MM26 VDD RESETn SS VDD pmos_rvt w=27.0n l=20n nfin=1
MM19 VDD SH SS VDD pmos_rvt w=27.0n l=20n nfin=1
MM1 MH clkn pu1 VDD pmos_rvt w=81.0n l=20n nfin=3
MM8 VDD MS net19 VDD pmos_rvt w=54.0n l=20n nfin=2
MM11 VDD RESETn net19 VDD pmos_rvt w=54.0n l=20n nfin=2
MM16 VDD SETn net37 VDD pmos_rvt w=54.0n l=20n nfin=2
MM17 VDD SS net37 VDD pmos_rvt w=27.0n l=20n nfin=1
MM10 MH clkb net19 VDD pmos_rvt w=54.0n l=20n nfin=2
MM29 SH clkn net37 VDD pmos_rvt w=54.0n l=20n nfin=2
.ENDS
X1 D1 D2 VDD VSS D XOR2x1_ASAP7_75t_R
X2 RESETn1 RESETn2 VDD VSS RESETn NAND2x1_ASAP7_75t_R
X3 SETn1 SETn2 VDD VSS SETn NOR2x1_ASAP7_75t_R
X4 CLK D QN RESETn SETn VDD VSS DFFASRHQNx1_ASAP7_75t_R
.ENDS ASYNC_SYNC_DFF